US04277479
Into 500 ml of methanol, 2.5 g of 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril is added, then 0.1 of palladium black is added into the mixture and the reaction is carried out under 2.5 atoms of H2 -pressure at 50° C. for 8 hours. After the reaction is completed, the catalyst is removed by filtration and the filtrate is concentrated to dryness. The residue is recrystallized from chloroform-petroleum ether to obtain 1.5 g of 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals. Melting point: 154.4°-155.5° C.

reactant | 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril | 2.5 g | C1(CCCCC1)N1N=NN=C1CCCOC=1C=C2C=CC(NC2=CC1)=O | C19H23N5O2
catalyst | palladium black | [Pd] | Pd
solvent | methanol | 500 ml | CO | CH4O
product | 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]-3,4-dihydrocarbostyril | 1.5 g | C1(CCCCC1)N1N=NN=C1CCCOC=1C=C2CCC(NC2=CC1)=O | C19H25N5O2
